US04002647
A solution of 28 g. of methoxycitronellal in 50 ml. of ether is slowly added dropwise at -20° C. to -10° C. to a Grignard solution prepared from 5.35 g. of magnesium and 28.4 g. of methyl iodide in 100 ml. of diethyl ether. The mixture is then poured onto 100 ml. of ice-water, acidified with dilute aqueous sulfuric acid and extracted twice with diethyl ether. The extracts are washed with semi-saturated and saturated sodium chloride solution, dried over sodium sulfate and evaporated. By distillation in a high vacuum there is obtained pure 8-methoxy-4,8-dimethyl-2-nonanol of boiling point 103° C./0.8 mmHg; nD20 = 1.4451.

reactant | methoxycitronellal | COC\C(\C)=C/CCC(C)CC=O | C11H20O2
reactant | magnesium | [Mg] | Mg
reactant | methyl iodide | CI | CH3I
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ether | CCOCC | C4H10O
product | 8-methoxy-4,8-dimethyl-2-nonanol | COC(CCCC(CC(C)O)C)(C)C | C12H26O2
